US08022062B2
7-Chloro-6-(4-cyclohexyl-3-fluorobenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 414, using 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine and cyclohexylzinc bromide. Use a method similar to the General Procedure 1-4, basic work-up, and a method similar to the General Procedure 2-1, to give the title compound as a white solid. MS (ES+) m/z: 404 (M+H)+.

reactant | 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | BrC1=C(C=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=C1)F | C22H24BrClFNO2S
reactant | cyclohexylzinc bromide | [Br-].C1(CCCCC1)[Zn+]
product | 7-Chloro-6-(4-cyclohexyl-3-fluorobenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC(=C(C=C1)C1CCCCC1)F | InChI=1S/C23H27ClFNS.ClH/c24-21-9-7-18-10-12-26-13-11-20(18)23(21)27-15-16-6-8-19(22(25)14-16)17-4-2-1-3-5-17;/h6-9,14,17,26H,1-5,10-13,15H2;1H
